US05534535
(±)-(1R*, 2S*, 3S*, 5S*)-5-[2-(tert-Butylamino)-5,6-dichloro-1H-benzimidazol-1-yl]-3-(hydroxymethyl)-1,2-cyclopentanediol
A solution of (±)-(1R*, 2S*, 3S*, 5S*)-5-(2-bromo-5,6-dichloro-1H-benzimidazol-1-yl)-3-(hydroxymethyl)-1,2-cyclopentanediol (750 mg, 1.44 mmole) was stirred in tert-butylamine (Aldrich, 98%, 25 mL) in a Parr bomb maintained at 90° C. (oil bath) for 6 days. Volatiles were evaporated in vacuo and the residual solids refluxed in ethanol (30 mL) with aqueous dimethylamine (Aldrich, 40%, 2 mL) for one hour. Volatiles were evaporated and the residual solids chromatographed on silica gel. Elution with 10% methanol-ethyl acetate gave title compound as colorless glass. Solidification from water gave (±)-(1R*, 2S*, 3S*, 5S*)-5-[2-(tert-butylamino )-5,6-dichloro-1H-benzimidazol-1-yl]-3-(hydroxymethyl)-1,2-cyclopentanediol as a white powder (150 mg, 26%); m.p. 130°-132° C.; 1H-NMR(DMSO-d6) identical with that of the enatiomer described in Example 82.

reactant | 5-(2-bromo-5,6-dichloro-1H-benzimidazol-1-yl)-3-(hydroxymethyl)-1,2-cyclopentanediol | 1.44 mmole, 750 mg | BrC1=NC2=C(N1C1CC(C(C1O)O)CO)C=C(C(=C2)Cl)Cl | C13H13BrCl2N2O3
reactant | tert-butylamine | 25 mL | C(C)(C)(C)N | C4H11N
product | 5-[2-(tert-Butylamino)-5,6-dichloro-1H-benzimidazol-1-yl]-3-(hydroxymethyl)-1,2-cyclopentanediol | C(C)(C)(C)NC1=NC2=C(N1C1CC(C(C1O)O)CO)C=C(C(=C2)Cl)Cl | C17H23Cl2N3O3
